US09290485B2
e) N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-1-(biphenyl-4-ylmethyl)-1H-1,2,3-triazole-4-carboxamide
A mixture of (5-{[(1-Biphenyl-4-ylmethyl-1H-[1,2,3]triazole-4-carbonyl)-amino]-methyl}-4,6-dimethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (27 mg, 0.053 mmol), 1 mL TFA and 2 mL DCM was stirred at room temperature for 2 h. The mixture was evaporated in vacuo to yield the final product (TFA salt). 1H-NMR (DMSO-d6, 400 MHz) 13.24 (bs, 1H), 8.87 (t, 1H), 8.70 (s, 1H), 7.65-7.69 (m, 4H), 7.43-7.52 (m, 6H), 7.36-7.40 (t, 1H), 6.62 (s, 1H), 5.70 (s, 2H), 4.43 (d, 2H), 2.52 (s, 3H), 2.40 (s, 3H); LCMS (method A) RtA=1.317 min; [M+H]+=413.0.

reactant | (5-{[(1-Biphenyl-4-ylmethyl-1H-[1,2,3]triazole-4-carbonyl)-amino]-methyl}-4,6-dimethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 0.053 mmol, 27 mg | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CNC(=O)C=1N=NN(C1)CC1=CC=C(C=C1)C1=CC=CC=C1)C)=O | C29H32N6O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-1-(biphenyl-4-ylmethyl)-1H-1,2,3-triazole-4-carboxamide | NC1=CC(=C(C(=N1)C)CNC(=O)C=1N=NN(C1)CC1=CC=C(C=C1)C1=CC=CC=C1)C | C24H24N6O
